US04614770
1-(Vinylbenzyl)-3-((S)-α-methylbenzylcarbamoyl)-pyridinium chloride:
A 100 ml methanol solution containing 2.26 g (1.00×10-2 mols) of N-((S)-α-methylbenzyl)nicotinamide was charged into a 250 ml round bottom flask equipped with condenser, addition funnel, drying tube, nitrogen purge and magnetic stirrer. To this stirred reaction mixture was added, dropwise over a 10 minute interval, 50 ml of a methanol solution containing 1.53 g (1.00×10-2 mols) of chloromethylstyrene. The solution was stirred for 24 hours at 25° C., then was concentrated under vacuum to afford solid which was recrystallized from methanol to yield 3.40 g (8.98×10-3 mols) of product.

reactant | N-((S)-α-methylbenzyl)nicotinamide | 1.00×10-2 mols, 2.26 g | C[C@@H](C1=CC=CC=C1)NC(C1=CN=CC=C1)=O | C14H14N2O
reactant | chloromethylstyrene | 1.00×10-2 mols, 1.53 g | ClCC=CC1=CC=CC=C1 | C9H9Cl
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | 1-(Vinylbenzyl)-3-((S)-α-methylbenzylcarbamoyl)-pyridinium chloride | 8.98×10-3 mols, 3.40 g | [Cl-].C(=C)C(C1=CC=CC=C1)[N+]1=CC(=CC=C1)C(N[C@H](C1=CC=CC=C1)C)=O | InChI=1S/C23H22N2O.ClH/c1-3-22(20-13-8-5-9-14-20)25-16-10-15-21(17-25)23(26)24-18(2)19-11-6-4-7-12-19;/h3-18,22H,1H2,2H3;1H/t18-,22?;/m0./s1
